US07612075B2
B. 2-Bromomethyl-5-chloro-indole-1-carboxylic acid tert-butyl ester.
A solution containing 5-chloro-2-methyl-indole-1-carboxylic acid tert-butyl ester (3.0 g, 11.3 mmol), NBS (1.33 g, 11.3 mmol), and benzoyl peroxide (0.4 g, 1.13 mmol) in CCl4 (100 mL) is heated at 80° C. for 3 hours. An additional portion of NBS (0.65 g, 5.65 mmol), and benzoyl peroxide (0.2 g, 0.56 mmol) is then added and the reaction mixture is heated for an additional 3 hours. After cooling to ambient temperature, the reaction mixture is filtered. The filtrate is concentrated to a brown oil which is triturated with hexane to remove residual succinimide, filtered, and concentrated. The resultant oil (4.5 g, >100%) is used directly in the next reaction without further purification. 1H NMR (300 MHz, CDCl3) δ1.72 (s, 9H), 4.88 (s, 2H), 6.63 (s, 1H), 7.27 (dd, J=9.0, 2.0 Hz, 1H), 7.46 (d, J=2.0 Hz, 1H), 8.09 (d, J=9.0 Hz, 1H) ppm; MS (EI): m/z 343 (M+).

reactant | 5-chloro-2-methyl-indole-1-carboxylic acid tert-butyl ester | 11.3 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)C | C14H16ClNO2
reactant | NBS | 11.3 mmol, 1.33 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1.13 mmol, 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 5.65 mmol, 0.65 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.56 mmol, 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-chloro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)Cl)CBr | C14H15BrClNO2
